US07465795B2
4-Amino-N-butyl-8-(2,5-dimethoxyphenyl)cinnoline-3-carboxamide
The title compound was prepared from 4-amino-8-bromo-N-butyl-cinnoline-3-carboxamide (100 mg, 0.31 mmol) and 2,5-dimethoxyphenyl boronic acid (112.6 mg, 0.62 mmol) according to Method A to afford a white solid (96.3 mg, 82%). 1H NMR (300.132 MHz, CDCl3) δ 8.54 (t, J=4.7 Hz, 1H), 7.86 (dd, J=7.6, 2.2 Hz, 1H), 6.96 (t, J=3.0 Hz, 1H), 6.96 (s, 1H), 6.93 (d, J=1.9 Hz, 1H), 7.76-7.68 (m, 2H), 3.79 (s, 3H), 3.64 (s, 3H), 3.48 (q, J=6.6 Hz, 2H), 1.61 (quintet, J=7.2 Hz, 2H), 1.43 (sextet, J=7.3 Hz, 2H), 0.94 (t, J=7.3 Hz, 3H). MS APCI, m/z=381.2 (M+H). HPLC 2.83 min.

reactant | 4-amino-8-bromo-N-butyl-cinnoline-3-carboxamide | 0.31 mmol, 100 mg | NC1=C(N=NC2=C(C=CC=C12)Br)C(=O)NCCCC | C13H15BrN4O
reactant | 2,5-dimethoxyphenyl boronic acid | 0.62 mmol, 112.6 mg | COC1=C(C=C(C=C1)OC)B(O)O | C8H11BO4
product | 4-Amino-N-butyl-8-(2,5-dimethoxyphenyl)cinnoline-3-carboxamide | NC1=C(N=NC2=C(C=CC=C12)C1=C(C=CC(=C1)OC)OC)C(=O)NCCCC | C21H24N4O3
